US04929641
Step 1: 2-Methylbenzylidenemalonic acid:
Combine 2-methylbenzaldehyde (39.6 g, 0.33 mol) and malonic acid (34.3 g, 0.33 mol). Heat at 90° C. for one hour, add 3.9 g of the aldehyde, and heat 6 hr. at 90°. Allow to cool, partition between diethyl ether and 1N NaOH, acidify the aqueous layer, filter off the solid, wash and dry to give the title compound as a beige solid, m.p. 197°-200°.

reactant | 2-methylbenzaldehyde | 0.33 mol, 39.6 g | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | malonic acid | 0.33 mol, 34.3 g | C(CC(=O)O)(=O)O | C3H4O4
product | 2-Methylbenzylidenemalonic acid | CC1=C(C=C(C(=O)O)C(=O)O)C=CC=C1 | C11H10O4
